US04912135
Preparation of ethyl 2,4-bis(methoxyacetylamino)benzoate:
To a solution of ethyl 2,4-diaminobenzoate (3.6 g) in pyridine (80 ml) is added dropwise methoxyacetyl chloride (4.0 ml) at room temperature. The mixture is stirred at room temperature for 3 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue are added water and chloroform. The organic layer is separated and washed with water and then with aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent is distilled off under reduced pressure, and the resulting oily substance is dissolved in ethyl acetate-hexane, and the solution is allowed to stand at -30° C. for 6 hours. The precipitated crystals are separated by filtration to give the title compound (6.0 g) having the following physical properties.

reactant | ethyl 2,4-diaminobenzoate | 3.6 g | NC1=C(C(=O)OCC)C=CC(=C1)N | C9H12N2O2
reactant | methoxyacetyl chloride | 4.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2,4-bis(methoxyacetylamino)benzoate | 6.0 g | COCC(=O)NC1=C(C(=O)OCC)C=CC(=C1)NC(COC)=O | C15H20N2O6
